US08455475B2
7-(3-Azaspiro[5.5]undecan-9-yl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyrazine dihydrochloride (AMN-32)
Acetyl chloride (5 eq.) was added to an ice-cold solution of tert-butyl 9-(5,6-dihydro-[1,2,4]triazolo[1,5-a]pyrazin-7(8H)-yl)-3-azaspiro[5.5]undecane-3-carboxylate (0.666 mmol, 1 eq.) in ethanol (5 ml). The reaction mixture was stirred at room temperature for overnight. The white solid was filtered out, washed with diethyl ether and dried in vacuo. Yield: 91%

reactant | Acetyl chloride | 5 eq. | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 9-(5,6-dihydro-[1,2,4]triazolo[1,5-a]pyrazin-7(8H)-yl)-3-azaspiro[5.5]undecane-3-carboxylate | 0.666 mmol, 1 eq. | N=1C=NN2C1CN(CC2)C2CCC1(CCN(CC1)C(=O)OC(C)(C)C)CC2 | C20H33N5O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-(3-Azaspiro[5.5]undecan-9-yl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyrazine dihydrochloride | Yield: 91% | Cl.Cl.C1CNCCC12CCC(CC2)N2CC=1N(CC2)N=CN1 | InChI=1S/C15H25N5.2ClH/c1-3-15(5-7-16-8-6-15)4-2-13(1)19-9-10-20-14(11-19)17-12-18-20;;/h12-13,16H,1-11H2;2*1H
